US06054448
A stirred mixture of diethyl 3,3-dimethoxycyclobutanedicarboxylate (10.36 g, 39.8 mmol) in acetone (95 ml) and p-toluenesulphonic acid (1.38 g, 8.02 mmol) was heated to 65° C. overnight. Further p-toluenesulphonic acid (200 mg, 1.16 mmol) and acetone (15 ml) were added and the temperature raised to 75° C. for 2 hours. The reaction was cooled to room temperature. The mixture was neutralised with aqueous sodium bicarbonate. Water (15 ml) was added and then extracted with dichloromethane (3×10 ml). The extracts were dried over magnesium sulphate, filtered and evaporated in vacuo to give a brown oil. The crude oil was distilled (bulb-to-bulb) to give diethyl 3,3-dicarboxycyclobutanone as an oil, b.p. 150-155° C./0.1 mm.

reactant | diethyl 3,3-dimethoxycyclobutanedicarboxylate | 39.8 mmol, 10.36 g | COC1(CC(C1)(C(=O)OCC)C(=O)OCC)OC | C12H20O6
reactant | p-toluenesulphonic acid | 8.02 mmol, 1.38 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-toluenesulphonic acid | 1.16 mmol, 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Water | 15 ml | O | H2O
reactant | acetone | 95 ml | CC(=O)C | C3H6O
reactant | acetone | 15 ml | CC(=O)C | C3H6O
product | diethyl 3,3-dicarboxycyclobutanone | C(C)C1C(C(C1=O)CC)(C(=O)O)C(=O)O | C10H14O5
